US09422281B2
A 3-L, three-necked, round bottomed flask fitted with a nitrogen inlet, magnetic stir bar, and thermocouple was charged with (S)-1-(6-bromo-2-methyl-4-tosyl-3,4-dihydroquinoxaline-1(2H)-yl)-2,2,2-trifluoroethanone (106.81 g, 224 mmol), dichloromethane (1070 mL), and sulfuric acid (18 M, 119 mL, 2238 mmol). The reaction mixture stirred at rt for 1 h and was then cooled to 0° C. Water (1070 mL) was slowly added in 100 mL portions, while maintaining the internal temperature at ca. 0° C. (Note: the internal temperature rose from ca. 2.6° C. to 23.8° C. with each addition). After the final water addition, the internal temperature was 34° C., and the mixture was cooled to rt. The aqueous layer was separated extracted with dichloromethane (700 mL). The combined organic layers were washed with water (700 mL) and then concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (eluting with 100% dichloromethane). The product-containing fractions were combined and concentrated under reduced pressure. Further drying under vacuum (ca. 17 Torr) at rt afforded (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)-2,2,2-trifluoroethanone (71.8 g, 99%) as a brown solid. MS (ESI, pos. ion) m/z 323[M+1]+.

reactant | (S)-1-(6-bromo-2-methyl-4-tosyl-3,4-dihydroquinoxaline-1(2H)-yl)-2,2,2-trifluoroethanone | 224 mmol, 106.81 g | BrC=1C=C2N(C[C@@H](N(C2=CC1)C(C(F)(F)F)=O)C)S(=O)(=O)C1=CC=C(C)C=C1 | C18H16BrF3N2O3S
reactant | dichloromethane | 1070 mL | ClCCl | CH2Cl2
reactant | sulfuric acid | 2238 mmol, 18 M, 119 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
solvent | Water | 1070 mL | O | H2O
product | (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)-2,2,2-trifluoroethanone | 71.8 g, 99% | BrC=1C=C2NC[C@@H](N(C2=CC1)C(C(F)(F)F)=O)C | C11H10BrF3N2O
